US05998433
b) Synthesis of N,N-dimethyl-[6-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.330 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.330 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2CCN(CC2)C(C2=CC=CC=C2)=O)O1 | C23H29N3O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-(1-benzoylpiperidine-4-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)C2CCN(CC2)C(C2=CC=CC=C2)=O)O1 | InChI=1S/C23H29N3O3.ClH/c1-24(2)15-20-14-19-10-13-26(16-21(19)29-20)23(28)18-8-11-25(12-9-18)22(27)17-6-4-3-5-7-17;/h3-7,14,18H,8-13,15-16H2,1-2H3;1H
